### PR TITLE
[Merged by Bors] - feat (GroupTheory.Perm.Cycle.PossibleTypes) : cycleTypes of perm

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Characterize the possible types of permutations: given `m : Multiset ℕ`,
there are permutations in `Equiv.Perm α` with cycleType `m` if and only if
`m.sum`is at most `Fintype.card α` and the members of `m` are at least 2.

This result will be used in later PR which computes the cardinality of 
conjugacy classes in `Equiv.Perm α` and `alternatingGroup α`

---

The file uses material on lists which could be put in other files, 
but which of them is not clear.

The main function would be better placed in Mathlib.GroupTheory.Equiv.Perm.Cycle.Type`, but it uses something from a subsequent file…

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean [hunk 1]
```diff
@@ -0,0 +1,256 @@
...
+  `ml.map List.length = l` and `ml.join = range l.sum` -/
+def ranges : List ℕ → List (List ℕ)
+  | [] => nil
+  | a::l => range a::(ranges l).map (map (Nat.add a))
+
+/-- The members of `l.ranges` are pairwise disjoint -/
+theorem ranges_disjoint (l : List ℕ) :
+  Pairwise Disjoint (ranges l) := by
+  induction' l with a l hl
+  -- nil
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:74]:
```suggestion
```

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:74]: Or elaborate a bit if you want to keep the comment.

Similarly below.

File: Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean [hunk 2]
```diff
@@ -0,0 +1,256 @@
...
+  · -- (a :: l)
+    intro s hs
+    simp only [ranges, List.mem_cons] at hs
+    cases' hs with hs hs
+    -- s = a
+    rw [hs]
+    exact nodup_range a
+    -- s ∈ l
+    obtain ⟨t, ht, rfl⟩ := mem_map.mp hs
+    refine' Nodup.map (fun u v => Nat.add_left_cancel) (hl t ht)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:109]:
```suggestion
    exact Nodup.map (fun u v => Nat.add_left_cancel) (hl t ht)
```

**Review by riccardobrasca — COMMENTED** [review]
To find a place for your lemmas, have you tried [find_home](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Util/Imports.html#%C2%ABcommand#find_home!_%C2%BB)?

**Comment by AntoineChambert-Loir** [comment]
Regarding where I could put the initial functions: docs#find_home gave me some answers and I more or less
followed its suggestions.

File: Mathlib/Data/List/Range.lean [hunk 3]
```diff
@@ -234,4 +234,93 @@ theorem nthLe_finRange {n : ℕ} {i : ℕ} (h) :
   have h₂ : (finRange k).get ⟨i, by simp⟩ = i := get_finRange _
   simpa using (Nodup.get_inj_iff (nodup_finRange k)).mp (Eq.trans h₁ h₂.symm)
 
+section Ranges
+
+
+/-- From `l: List ℕ`, construct `ml: List (List ℕ)` such that
+  `ml.map List.length = l` and `ml.join = range l.sum` -/
```
Comment (riccardobrasca) [inline Mathlib/Data/List/Range.lean:241]:
```suggestion
/-- From `l : List ℕ`, construct `l.ranges : List (List ℕ)` such that
  `ml.map List.length = l` and `ml.join = range l.sum` -/
```
Can you maybe add a short example? I find a little difficult to read the definition.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/List/Range.lean:241]: I just did that as requested : [1,2,3].range = [[0],[1,2],[3,4,5]. I also tstarted proving the converse of the last statement (ranges_lt) which, together with the preceding results characterizes `ranges`.

File: Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean [hunk 4]
```diff
@@ -0,0 +1,257 @@
...
+  For example, `List.ranges [2,0,3] = [[0,1], [], [2,3,4]]`.
+* `List.ranges_disjoint`, `List.ranges_nodup`, `List.ranges_lt`,
+  `List.ranges_lengths` prove properties of that function
+* Given `l : List ℕ` and a type `α` with more than `l.sum` elements,
+  `List.exists_pw_disjoint_with_card α l` constructs a `List (List α)`
+  with given lengths, pairwise disjoint members, each of them having no duplicates.
+-/
+
+
+/- section List
```
Comment (tb65536) [inline Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:32]: Is this supposed to be commented out?

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:32]: Yes. It has been deplaced and will be deleted once it works there.

File: Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean [hunk 5]
```diff
@@ -0,0 +1,76 @@
...
+  its sum is at most `Fintype.card α` and its members are at least 2.
+
+-/
+
+variable (α : Type _) [DecidableEq α] [Fintype α]
+
+/-- There are permutations with cycleType `m` if and only if
+  its sum is at most `Fintype.card α` and its members are at least 2. -/
+theorem Equiv.Perm.with_cycleType_nonempty_iff {m : Multiset ℕ} :
+    Set.Nonempty {g : Equiv.Perm α | g.cycleType = m} ↔
```
Comment (tb65536) [inline Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: Writing this in terms of existence of `g` might be a bit simpler than going through `Set.Nonempty`.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: I can do either way, since I explicitly prove existence. 
My own idiosyncratic style wishes to avoid a quantifier. 
Also, the whole game (PR to come) is about the cardinality of that set.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: [Set.Nonempty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Basic.html#Set.Nonempty) is already a quantifier, so this shouldn't make a real difference.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: My interpretation of "The property s.[Nonempty](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Nonempty) expresses the fact that the set s is not empty. It should be used in theorem assumptions instead of ∃ x, x ∈ s or s ≠ ∅ as it gives access to a nice API thanks to the dot notation." is as follows:

if it has to be used as a theorem assumption, it'd rather be used as a theorem conclusion, for otherwise, the user would have to do some rewrite.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: (Since it's *equal* to ∃ x, x ∈  s, maybe no rewrite is necessary.)

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: You can try, but `rw` usually usually only works up to syntactic equality (so it doesn't see even through definitional equality).

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/PossibleTypes.lean:22]: So it seems to be better to have it as `Set.Nonempty`.

File: Mathlib/Data/List/Range.lean [hunk 6]
```diff
@@ -234,4 +235,71 @@ theorem nthLe_finRange {n : ℕ} {i : ℕ} (h) :
...
+
+/-- Any entry of any member of `l.ranges` is strictly smaller than `l.sum` -/
+theorem mem_mem_ranges_iff_lt_sum (l : List ℕ) {n : ℕ} :
+    (∃ s ∈ List.ranges l,  n ∈ s) ↔ n < l.sum := by
+  rw [← mem_range, ← ranges_join, mem_join]
+
+ /-- The members of `l.ranges` have no duplicate -/
+theorem ranges_nodup {l s : List ℕ} (hs : s ∈ ranges l) :
+    s.Nodup := by
+  refine ((List.pairwise_join (R := ?_) (L := ranges l)).mp ?_).1 s hs
```
Comment (riccardobrasca) [inline Mathlib/Data/List/Range.lean:299]:
```suggestion
  refine (List.pairwise_join.mp ?_).1 s hs
```

File: Mathlib/Data/List/Join.lean [hunk 7]
```diff
@@ -228,4 +228,20 @@ theorem join_reverse (L : List (List α)) :
   simpa [reverse_reverse, map_reverse] using congr_arg List.reverse (reverse_join L.reverse)
 #align list.join_reverse List.join_reverse
 
+/-- Any member of `l : List (List α))` is a sublist of `l.join` -/
+lemma sublist_join (l : List (List α)) (s : List α) (hs : s ∈ l) :
```
Comment (riccardobrasca) [inline Mathlib/Data/List/Join.lean:232]:
```suggestion
lemma sublist_join (l : List (List α)) {s : List α} (hs : s ∈ l) :
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
